US07247748B2
(S)-2-(3-{3-[[2Chloro-3-(trifluoromethyl)benzyl](2-phenyl-propyl)amino]propoxy}-phenyl)-acetamide
To a solution (S)-2-(3-{3-[[2-chloro-3-(trifluoromethyl)benzyl](2-phenyl-propyl)amino]propoxy}-phenyl)acetic acid hydrochloride salt (50 mg, 0.1 mmol) in dichloromethane, 1,2-dichloroethane (EDC, 19.2 mg, 0.1 mmol), 1-hydroxybenzotriazole hydrate (HOBT, 13.6 mg, 0.1 mmol), triethylamine (Et3N, 14 μl, 0.1 mmol) and ammonia (1.0M in dioxane, 0.24 ml) were added. After the resulting mixture was stirred at room temperature for over night it was washed with 0.1N HCl, saturated NaHCO3, water and brine. The organic layer was dried over Na2SO4 and concentrated under vacuum. The residue was purified with HPLC to give the tittle compound as a light yellow oil 30 mg, yield 60%. MS m/e 519.0 (M+H)+.

reactant | (S)-2-(3-{3-[[2-chloro-3-(trifluoromethyl)benzyl](2-phenyl-propyl)amino]propoxy}-phenyl)acetic acid hydrochloride salt | 0.1 mmol, 50 mg | Cl.ClC1=C(CN(CCCOC=2C=C(C=CC2)CC(=O)O)C[C@@H](C)C2=CC=CC=C2)C=CC=C1C(F)(F)F
reactant | 1,2-dichloroethane | 0.1 mmol, 19.2 mg | ClCCCl | C2H4Cl2
reactant | 1-hydroxybenzotriazole hydrate | 0.1 mmol, 13.6 mg | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 0.1 mmol, 14 μl | C(C)N(CC)CC | C6H15N
reactant | ammonia | 1.0M, 0.24 ml | N | H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-2-(3-{3-[[2Chloro-3-(trifluoromethyl)benzyl](2-phenyl-propyl)amino]propoxy}-phenyl)-acetamide | 30 mg, yield 60% | ClC1=C(CN(CCCOC=2C=C(C=CC2)CC(=O)N)C[C@@H](C)C2=CC=CC=C2)C=CC=C1C(F)(F)F | C28H30ClF3N2O2
